US07365095B2
Treatment of ((2R)-7-chloro-8-(2-chlorophenyl)chroman-2-yl)methyl 4-methylbenzenesulfonate (2.10 g, 4.53 mmol) with sodium azide (1.77 g, 27.20 mmol) in DMSO (50 mL) according to the procedure described for Example 69, Step 9 provided 1.5 g (99%) of (2R)-2-(azidomethyl)-7-chloro-8-(2-chlorophenyl)chroman as a white solid. MS (EI) m/z 333.0 [M]+.

reactant | ((2R)-7-chloro-8-(2-chlorophenyl)chroman-2-yl)methyl 4-methylbenzenesulfonate | 4.53 mmol, 2.10 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2CC1)Cl)C1=C(C=CC=C1)Cl | C23H20Cl2O4S
reactant | sodium azide | 27.20 mmol, 1.77 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | (2R)-2-(azidomethyl)-7-chloro-8-(2-chlorophenyl)chroman | 1.5 g, 99% | N(=[N+]=[N-])C[C@@H]1OC2=C(C(=CC=C2CC1)Cl)C1=C(C=CC=C1)Cl | C16H13Cl2N3O
